US04285948
A mixture of 9.90 g (0.073 mol) of 2-amino-1,4,5,6-tetrahydropyrimidine hydrochloride, 6.0 g (0.075 mol) of 50% NaOH and 75 ml of THF was stirred for 0.75 hours at room temperature and then 10 g. Na2SO4 was added. After stirring for 0.5 hours, a solution of 9.36 g. (0.050 mol) of methyl-2-trifluoromethylphenyl isocyanate in 50 ml of THF was added over a period of 0.5 hours. After stirring for 1 hour, the reaction mixture was filtered, the filtrate evaporated in vacuo and the residue dissolved in 50 ml of 10% HCl and 100 ml of H2O with warming. After filtration through a pad of diatomaceous earth, chilling in ice gave the crystalline hydrychloride which was recrystallized from hot H2O affording 10.09 g (63%). This material was dried to constant weight in vacuo (20° C., 5 mm Hg) to give pure N-(1,4,5,6-tetrahydropyrimidin- 2-yl)-N'-(2-trifluoromethylphenyl)urea monohydrochloride hydrate; m.p. (120) 182.5°-184.5° C. IR(CHCl3) 3240 (br), 1717, 1642, 1594 cm-1. UV max. (MeOH) 281 infl (ε6,900), 256 nm (ε29,000) and 215 nm (ε14,900).

reactant | 2-amino-1,4,5,6-tetrahydropyrimidine hydrochloride | 0.073 mol, 9.90 g | Cl.NC=1NCCCN1
reactant | NaOH | 0.075 mol, 6.0 g | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | methyl-2-trifluoromethylphenyl isocyanate | 0.050 mol | CC=1C(=C(C=CC1)N=C=O)C(F)(F)F | C9H6F3NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | N-(1,4,5,6-tetrahydropyrimidin- 2-yl)-N'-(2-trifluoromethylphenyl)urea monohydrochloride hydrate | O.Cl.N1C(=NCCC1)NC(=O)NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C12H13F3N4O.ClH.H2O/c13-12(14,15)8-4-1-2-5-9(8)18-11(20)19-10-16-6-3-7-17-10;;/h1-2,4-5H,3,6-7H2,(H3,16,17,18,19,20);1H;1H2
